US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and pivaloyl chloride, there is obtained ethyl N-pivaloyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 350 (2), 321 (5), 293 (100), 265 (18), 194 (29), 167 (92);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | ethyl N-pivaloyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C(C)(C)C)(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C22H26N2O2
